US07214800B2
To a solution of (±)-2-[1-(2-amino-2-methyl-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one (133 mg, 0.32 mmol) in dichloromethane (3 mL) was added triethylamine (90 μL, 0.64 mmol), followed by 3-fluoro-4-methylbenzoyl chloride (51 μL, 0.35 mmol). The resultant solution was stirred at ambient temperature for 3 hours, quenched with saturated aqueous sodium bicarbonate (5 mL) and diluted with dichloromethane (5 mL). The aqueous layer was extracted with dichloromethane (5 mL) and the combined extracts were dried over magnesium sulfate, filtered and concentrated under reduced pressure. The residue was purified by silica gel chromatography (10–20% ethyl acetate/hexanes) to give (±)-N-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl }-3-fluoro-4-methyl-benzamide (120 mg, 68%) as a white solid.

reactant | (±)-2-[1-(2-amino-2-methyl-propylamino)-2-methyl-propyl]-3-benzyl-7-chloro-3H-quinazolin-4-one | 0.32 mmol, 133 mg | NC(CNC(C(C)C)C1=NC2=CC(=CC=C2C(N1CC1=CC=CC=C1)=O)Cl)(C)C | C23H29ClN4O
reactant | triethylamine | 0.64 mmol, 90 μL | C(C)N(CC)CC | C6H15N
reactant | 3-fluoro-4-methylbenzoyl chloride | 0.35 mmol, 51 μL | FC=1C=C(C(=O)Cl)C=CC1C | C8H6ClFO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (±)-N-{2-[1-(3-benzyl-7-chloro-4-oxo-3,4-dihydro-quinazolin-2-yl)-2-methyl-propylamino]-1,1-dimethyl-ethyl }-3-fluoro-4-methyl-benzamide | 120 mg, 68% | C(C1=CC=CC=C1)N1C(=NC2=CC(=CC=C2C1=O)Cl)C(C(C)C)NCC(C)(C)NC(C1=CC(=C(C=C1)C)F)=O | C31H34ClFN4O2
